US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-nitro-phenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 5 (b) by reaction of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane with N-methyl-N-[2-(4-nitro-phenyl)-ethyl]-amine.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(4-nitro-phenyl)-ethyl]-amine | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-nitro-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=C(C=C2)[N+](=O)[O-])C)=O)C=C1OC | InChI=1S/C24H31N3O5.ClH/c1-25(13-9-18-5-7-21(8-6-18)27(29)30)11-4-12-26-14-10-19-15-22(31-2)23(32-3)16-20(19)17-24(26)28;/h5-8,15-16H,4,9-14,17H2,1-3H3;1H
